US07247741B2
A solution of methyl 2-(4-isopropyl-3-methylphenoxy)acetate (13.0 g, 58.5 mmol) in abs. ethanol (240 mL) was treated with aq. sodium hydroxide solution (13 ml, 5 M). The resulting solution was stirred for 4 h at ambient temperature, then poured into aq. HCl (800 mL, 1 N). This was extracted with ether (2×200 mL), and the extracts were washed with brine, combined, dried over anhydrous magnesium sulfate, filtered and evaporated to afford the solid product, 2-(4-isopropyl-3-methylphenoxy)acetic acid, which was dried under vacuum (12.0 g, 58.5 mmol 100%). 1H NMR (d6-DMSO, 300 MHz): δ 12.91 (1H, s), 7.12 (1H, d, J=8 Hz), 6.70–6.65 (2H, m), 4.58 (2H, s), 3.02 (1H, m, J=6.7 Hz), 2.24 (3H, s), 1.12 (6H, d, J=6.7 Hz).

reactant | methyl 2-(4-isopropyl-3-methylphenoxy)acetate | 58.5 mmol, 13.0 g | C(C)(C)C1=C(C=C(OCC(=O)OC)C=C1)C | C13H18O3
reactant | sodium hydroxide | 5 M, 13 ml | [OH-].[Na+]
reactant | HCl | 1 N, 800 mL | Cl | ClH
solvent | ethanol | 240 mL | C(C)O | C2H6O
product | 2-(4-isopropyl-3-methylphenoxy)acetic acid | C(C)(C)C1=C(C=C(OCC(=O)O)C=C1)C | C12H16O3
